US06288082B1
A solution of 400 mg (1.44 mM) of 4-chloro-6,7-diethoxy-quinoline-3-carbonitrile and 205 mg (1.54 mM) of 5-Aminoindan in 12 ml of 2-methoxyethanol was refluxed for 3 hours. To the warm solution was added 1 ml of 1M sodium carbonate and the sample was heated for 5 minutes at 100° C., then poured into 300 ml of ice water. The solid was collected, washed with water followed by ether and dried under vacuum at 80° C. The brown solid was dissolved digested in 200 ml of ethanol and the volume was reduced to 100 ml. The solid was isolated from the warm solution and washed with ethanol followed by ether and dried under vacuum at 80° C. to yield 435 mg of 6,7-Diethoxy-4-(indan-5-ylamino)-quinoline-3-carbonitrile as a brown solid: mass spectrum (electrospray, m/e): M+H 374.0, mp=85-88° C.

reactant | 4-chloro-6,7-diethoxy-quinoline-3-carbonitrile | 1.44 mM, 400 mg | ClC1=C(C=NC2=CC(=C(C=C12)OCC)OCC)C#N | C14H13ClN2O2
reactant | 5-Aminoindan | 1.54 mM, 205 mg | NC=1C=C2CCCC2=CC1 | C9H11N
reactant | sodium carbonate | 1M, 1 ml | C([O-])([O-])=O.[Na+].[Na+]
solvent | 2-methoxyethanol | 12 ml | COCCO | C3H8O2
product | 6,7-Diethoxy-4-(indan-5-ylamino)-quinoline-3-carbonitrile | 435 mg | C(C)OC=1C=C2C(=C(C=NC2=CC1OCC)C#N)NC=1C=C2CCCC2=CC1 | C23H23N3O2
